US06762191B2
6-Benzyl-8-(2,4-dichlorophenyl)-1,2,3,4,4a,9b-hexahydro[1]benzofuro[3,2-c]pyridine, 250
tert-Butyl 6-benzyl-8-(2,4-dichlorophenyl)-3,4,4a,9b-tetrahydro[1]benzofuro[3,2-c]pyridine-2(1H)-carboxylate (0.137 g, 0.270 mmol) was dissolved in CH2Cl2 (5 mL). Trifluoracetic acid (0.44 mL, 5.670 mmol) was added and the reaction mixture was stirred at rt under N2 for 4 h. The reaction mixture was cooled to 0° C. and 25% aqueous NaOH (15 mL) was added. The reaction mixture was partitioned between CH2Cl2 and water. The water layer was extracted with CH2Cl2 (2×). The combined organic layers were dried over Na2SO4, filtered and concentrated under reduced pressure. The crude was purified by chromatography (1% NH4OH, 5.95% CH3OH, 93.05% CH2Cl2), and Example 250 was obtained in 86% yield. MS (ESI+) for C24H21Cl2NO m/z 410.0 (M+H)+.

reactant | tert-Butyl 6-benzyl-8-(2,4-dichlorophenyl)-3,4,4a,9b-tetrahydro[1]benzofuro[3,2-c]pyridine-2(1H)-carboxylate | 0.270 mmol, 0.137 g | C(C1=CC=CC=C1)C1=CC(=CC2=C1OC1C2CN(CC1)C(=O)OC(C)(C)C)C1=C(C=C(C=C1)Cl)Cl | C29H29Cl2NO3
reactant | Trifluoracetic acid | 5.670 mmol, 0.44 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 15 mL | [OH-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-Benzyl-8-(2,4-dichlorophenyl)-1,2,3,4,4a,9b-hexahydro[1]benzofuro[3,2-c]pyridine | C(C1=CC=CC=C1)C1=CC(=CC2=C1OC1C2CNCC1)C1=C(C=C(C=C1)Cl)Cl | C24H21Cl2NO
